US07323567B2
c) tert-Butyl [3-(7,8-diamino-4,4-dimethyl-1,3-dioxo-3,4-dihydro-1H-isoquinolin-2-yl)propyl]-[2-(3,4-dimethoxyphenyl)ethyl]carbamate
A mixture of tert-butyl [3-(7-amino-4,4-dimethyl-8-nitro-1,3-dioxo-3,4-dihydro-1H-isoquinolin-2-yl)propyl]-[2-(3,4-dimethoxyphenyl)ethyl]carbamate (3.60 g, 6.31 mmol) and 20% Pd(OH)2/C (0.72 g) in EtOH (100 mL) and THF (10 mL) was stirred under H2 (balloon) for 16 h. The catalyst was removed by filtration through diatomaceous earth and the filtrate was concentrated under reduced pressure. The residue was purified by flash chromatography (40-63μ silica gel, hexane:EtOAc 1:1 to 1:2) to give the title compound (2.85 g, 83% yield).

reactant | tert-butyl [3-(7-amino-4,4-dimethyl-8-nitro-1,3-dioxo-3,4-dihydro-1H-isoquinolin-2-yl)propyl]-[2-(3,4-dimethoxyphenyl)ethyl]carbamate | 6.31 mmol, 3.60 g | NC1=CC=C2C(C(N(C(C2=C1[N+](=O)[O-])=O)CCCN(C(OC(C)(C)C)=O)CCC1=CC(=C(C=C1)OC)OC)=O)(C)C | C29H38N4O8
solvent | EtOH | 100 mL | CCO | C2H6O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
catalyst | Pd(OH)2/C | 0.72 g | [OH-].[OH-].[Pd+2]
product | tert-Butyl [3-(7,8-diamino-4,4-dimethyl-1,3-dioxo-3,4-dihydro-1H-isoquinolin-2-yl)propyl]-[2-(3,4-dimethoxyphenyl)ethyl]carbamate | 2.85 g, 83% yield | NC1=CC=C2C(C(N(C(C2=C1N)=O)CCCN(C(OC(C)(C)C)=O)CCC1=CC(=C(C=C1)OC)OC)=O)(C)C | C29H40N4O6
